US06506747B1
Synthesis of 1-(4-Nitrophenyl)-3-hydroxymethyl-5-ethylpyrazole (Method L, Scheme I).
To a solution of 3-(tetrahydropyran-2-yloxy)methyl-5-ethylpyrazole (27.0 g, 0.13 mol) in dry THF (250 mL) was added tert-BuOK (14.4g, 0.13 mol) under nitrogen. After 10 min, 4-fluoronitrobenzene (18.1 g, 0.13 mol) was added. The mixture was heated to reflux for 10 hr, the solvent was then removed under vacuum The residue was taken up in ethyl acetate and washed with water, The organic layer was dried over MgSO4 and filtered. The filtrate was treated with active carbon (3.0 g, norit A alkaline) at reflux for 10 min and filtered through a pad of diatomaceous earth. The filtrate was concentrated to give a crude 7:1 mixture of regioisomers, which was dissolved in a 101: mixture of methanol and water (175 mL) and p-toluenesulfonic acid (1.2 g, 6.4 mmol) was added. The solution was stirred at room temperature for 12 hours and concentrated. The residue was taken up in ethyl acetate and washed with water. The organic layer was dried over MgSO4, filtered and concentrated to a crude solid. Recrystallization in a 1:1 mixture of hexane and ethyl acetate gave the title compound (15.6 g, 45%). mp: 151-152° C.

reactant | 3-(tetrahydropyran-2-yloxy)methyl-5-ethylpyrazole | 0.13 mol, 27.0 g | O1C(CCCC1)OCC1=NNC(=C1)CC | C11H18N2O2
reactant | tert-BuOK | 0.13 mol, 14.4g | C(C)(C)(C)O[K]
reactant | 4-fluoronitrobenzene | 0.13 mol, 18.1 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | p-toluenesulfonic acid | 6.4 mmol, 1.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | water | 175 mL | O | H2O
solvent | methanol | CO | CH4O
product | 1-(4-Nitrophenyl)-3-hydroxymethyl-5-ethylpyrazole | 15.6 g, 45% | [N+](=O)([O-])C1=CC=C(C=C1)N1N=C(C=C1CC)CO | C12H13N3O3
